US06150379
A mixture comprising 2-iodo-5-propoxypyridine (0.27 g, 1 mmol) and THF (10 mL) was cooled to -78° C. and then tert-butyl lithium (1.3 mL, 1.7 M in pentane, 2.1 mmol) was added dropwise to give an orange slurry. The slurry was cooled to -78° C. and stirred for 5 minutes and then anhydrous N,N-dimethylformamide (0.4 mL, 5 mmol) was added dropwise. The mixture was allowed to warm to ambient temperature, stirred 20 minutes and then poured into a mixture comprising ethyl acetate and water. The mixture was washed with water, dried (MgSO4), filtered and concentrated under reduced pressure to provide 5-propoxypyridine-2-carboxaldehyde (0.2 g, 1.3 mmol) as a dark oil. 1H-NMR (300 Mhz, CD3OD): 1.1 (t, 3H), 1.9 (m, 2H), 4.1 (t, 2H), 7.5 (m, 2H), 8.4 (m, 1H), 10.5 (s, 2H); MS (CI); Calculated for C9H11NO2, 165.2, Found (MH+): 166.

reactant | 2-iodo-5-propoxypyridine | 1 mmol, 0.27 g | IC1=NC=C(C=C1)OCCC | C8H10INO
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | tert-butyl lithium | 2.1 mmol, 1.7 M, 1.3 mL | C(C)(C)(C)[Li]
reactant | N,N-dimethylformamide | 5 mmol, 0.4 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-propoxypyridine-2-carboxaldehyde | 1.3 mmol, 0.2 g | C(CC)OC=1C=CC(=NC1)C=O | C9H11NO2
